US07829560B2
N-{4-[3-(4-Acetyl-piperazin-1-yl)-propoxy]-naphthalen-1-yl}-3-fluoro-5-piperidin-1-yl-benzamide (Compound B165).
Compound is prepared from N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide and N-acetylpiperizine according to conditions described in general procedure L. A white powder (0.13 g, 75.5%). Mp: 210-211° C. 1H NMR (300 MHz, DMSO-d6) δ 10.23 (s, 1H), 8.22 (br s, 1H), 7.84 (br s, 1H), 7.55 (m, 2H), 7.44 (m, 2H), 7.15 (br s, 1H), 6.98 (br s, 2H), 4.23 (br s, 2H), 3.42 (br s, 4H), 3.30 (br s, 4H), 2.57 (br s, 2H), 2.42 (m, 4H), 2.04 (m, 2H), 1.98 (s, 3H), 1.60 (br s, 6H). MS: 533.5 (M+1).

reactant | N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | ClCCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C25H26ClFN2O2
reactant | N-acetylpiperizine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | N-{4-[3-(4-Acetyl-piperazin-1-yl)-propoxy]-naphthalen-1-yl}-3-fluoro-5-piperidin-1-yl-benzamide | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C31H37FN4O3
